US05011839
4-Chloro-5-(4-methoxy-1-naphthylmethylamino)-6-i-propoxy-3(2H)pyridazinone (Compound No. 32)
A mixture comprising 350 mg of 4,5 dichloro 6-1-propoxy-3(2H)pyridazinone, 1.23 g of 4-methoxy-1-naphthylmethylamine and 30 ml of a mixture of water/1,4-dioxane (volume ratio of 1/1), was refluxed under stirring for 3.5 hours. The reaction mixture was concentrated, and precipitated crystals were collected by filtration and recrystallized from a mixture of methanol/water to obtain 420 mg of the above identified compound as colorless crystals having a melting point of from 244° to 247° C.

reactant | 4,5 dichloro 6-1-propoxy-3(2H)pyridazinone | 350 mg | ClC=1C(NN=C(C1Cl)OCCC)=O | C7H8Cl2N2O2
reactant | 4-methoxy-1-naphthylmethylamine | 1.23 g | COC1=CC=C(C2=CC=CC=C12)CN | C12H13NO
reactant | water 1,4-dioxane | O.O1CCOCC1
product | 4-Chloro-5-(4-methoxy-1-naphthylmethylamino)-6-i-propoxy-3(2H)pyridazinone | ClC=1C(NN=C(C1NCC1=CC=C(C2=CC=CC=C12)OC)OC(C)C)=O | C19H20ClN3O3
